US06221884B1
N-(6-methoxypyridin-3-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide
Beginning with 7.4 mg (0.029 mMol) 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid and 6-methoxy-3-aminopyridine, 1.8 mg (14%) of the title compound were recovered.

reactant | 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid | 0.029 mMol, 7.4 mg | CN(C1CCC=2NC3=CC=C(C=C3C2C1)C(=O)O)C | C15H18N2O2
reactant | 6-methoxy-3-aminopyridine | COC1=CC=C(C=N1)N | C6H8N2O
product | N-(6-methoxypyridin-3-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide | 1.8 mg, 14% | COC1=CC=C(C=N1)NC(=O)C=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C21H24N4O2
